US04120906
Five milliliters of thionyl chloride are added to a solution of 5.0 g (30 millimoles) tricyclo [4.3.1.12,5 ] undecane-1-ol in 30 ml dry anhydrous benzene and the entirety is refluxed for 1.5 hours. The reaction mixture is concentrated under reduced pressure and there is further added 20 ml of dry benzene. Reduced pressure concentration is repeated to distill out the excess thionyl chloride completely. The residue is distilled under reduced pressure to collect a fraction boiling at 95° C./3mmHg, to obtain 5.0 g (yield 89%) of 1-chlorotricyclo [4.3.1.12,5 ] undecane.

reactant | thionyl chloride | Five milliliters | S(=O)(Cl)Cl | Cl2OS
reactant | tricyclo [4.3.1.12,5 ] undecane-1-ol | 30 millimoles, 5.0 g | C12(C3CCC(C(CCC1)C2)C3)O | C11H18O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-chlorotricyclo [4.3.1.12,5 ] undecane | 5.0 g, yield 89% | ClC12C3CCC(C(CCC1)C2)C3 | C11H17Cl
